Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
vomiting
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ without past medical history who is now hospitalized
with ongoing vomiting since last ___.  The patient was in
his usual state of health drink 4 shots and then late ___
night developing vomiting which she could not stop leading to
some degree of hematemesis.  The patient was evaluated in the
___ emergency department daily since ___ and was
admitted today from the emergency department because he could 
not
tolerate p.o. challenge with ongoing nausea and vomiting.  His
initial assessment on ___ was noticeable for a initial
leukocytosis of 21 a lactate of 4.4 that improved with fluids as
this x-ray that showed no free air under the diaphragm and a CT
that showed no acute abdominal process.  ___ tear was
suspected and he was able to tolerate p.o. and discharged home. 
The next assessment on ___ by the emergency department was
notable for intractable nausea and vomiting likely marijuana
induced that improved with capsaicin cream and he was 
discharged.

Today in the emergency department his labs were notable for a
positive marijuana level improved leukocytosis to 10.6 and a
hyponatremia to 133 and 140 earlier in the week and an anion gap
of 17 with bicarb of 21.  He reported episodes of syncope in the
bathroom prior to arrival to the emergency department.

The patient estimates that he vomited 20 times in the last 24
hours.  He states that he has daily GERD symptoms and takes Tums
for this.  He notes that taking a hot shower improves his
symptoms and that on ___ he tried a hot shower but only used
the patient it briefly because he was worried about the water
___

___ not answer clearly in terms of timeframe of past episodes 
of
vomiting such as the current episode.

ROS:
+hematemesis
- melena
no severe abdominal or chest pain
He generally feels very weak and uncomfortable
He says Ativan helped his symptoms as it made him relax and fall
asleep without vomiting
His last meal was on ___
he is retching in front of me and vomited some clear liquid

 
Past Medical History:
none 
 
Social History:
___
Family History:
no liver or GI disease
 
Physical Exam:
ADMISSION EXAM
==============
___ 1840 Temp: 97.6 PO BP: 149/77 HR: 84 RR: 16 O2 sat: 95%
O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score: ___
This is a fatigued appearing young male laying in bed sometimes
reaching for a vomit basin and when I returned to his room later
had approximately 50 cc of clear fluid with some particulate
matter 
no crepitus to palpation of his chest and abdomen
Breath sounds are symmetric and clear bilaterally
He has regular rate and rhythm with distant S1 and S2
Abdominal palpation did not produce any guarding rebound or
tenderness
He has no peripheral edema
He moves all extremities equally

DISCHARGE EXAM
==============
VITALS: 24 HR Data (last updated ___ @ 745)
    Temp: 98.2 (Tm 98.2), BP: 129/70 (129-154/64-80), HR: 57 
(50-67), RR: 18 (___), O2 sat: 95% (95-97), O2 delivery: RA  
GENERAL: Alert and in no apparent distress
HEENT: NC/AT
CV: RRR, no m/r/g
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel 
sounds present.  
SKIN: No rashes or ulcerations noted
EXT: No ___ edema or calf tenderness noted
NEURO: Nonfocal
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS
==============
___ 11:20AM BLOOD WBC-13.6* RBC-4.49* Hgb-13.8 Hct-40.5 
MCV-90 MCH-30.7 MCHC-34.1 RDW-12.3 RDWSD-40.8 Plt ___
___ 11:20AM BLOOD Neuts-78.0* Lymphs-12.5* Monos-8.8 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-10.57* AbsLymp-1.69 
AbsMono-1.19* AbsEos-0.01* AbsBaso-0.02
___ 11:20AM BLOOD Glucose-101* UreaN-9 Creat-0.6 Na-140 
K-3.6 Cl-101 HCO3-21* AnGap-18
___ 11:20AM BLOOD ALT-13 AST-21 AlkPhos-45 TotBili-0.6
___ 11:20AM BLOOD Lipase-20
___ 11:20AM BLOOD Albumin-4.3 Calcium-8.8 Phos-2.1* Mg-2.2
___ 07:30AM URINE Color-Straw Appear-Clear Sp ___
___ 07:30AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-80* Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 07:30AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG marijua-POS*

IMAGING
=======
___ CT ABDOMEN/PELVIS
No etiology identified for abdominal pain.  Appendix appears 
normal.  No small bowel obstruction.  No pneumoperitoneum. 

DISCHARGE LABS
==============
___ 07:52AM BLOOD WBC-8.9 RBC-4.87 Hgb-15.0 Hct-43.7 MCV-90 
MCH-30.8 MCHC-34.3 RDW-11.5 RDWSD-37.2 Plt ___
___ 07:52AM BLOOD Glucose-95 UreaN-8 Creat-0.7 Na-141 K-3.9 
Cl-99 HCO3-25 AnGap-17
___ 07:52AM BLOOD Calcium-9.___ year old male with no past medical history who presented to 
the ER with N/V ___ presumed cannabis hyperemesis syndrome.

# CANNABIS HYPEREMESIS SYNDROME: Presented with severe nausea & 
vomiting, inability to keep PO. CT abdomen was normal. Labs have 
largely been unremarkable. Per report, the patient had an 
endoscopy done in ___ which was normal in ___. 
Zofran and capsaicin did not relieve his nausea; however, he has 
had relief with Ativan and hot showers. He was treated 
symptomatically and diet was advanced. He was tolerating POs at 
the time of discharge. He was discharged on PRN zofran for 
nausea, as well as PPI and H2B.

# HYPONATREMIA
# HYPOKALEMIA
# LEUKOCYTOSIS
All resolved.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Famotidine 20 mg PO Q12H 
RX *famotidine 20 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
2.  Ondansetron ODT 4 mg PO Q8H:PRN nausea, vomiting 
RX *ondansetron 4 mg 1 tablet(s) by mouth every 8 hours as 
needed Disp #*10 Tablet Refills:*0 
3.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cannabis hyperemesis syndrome
GERD
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with severe nausea & vomiting, likely related 
to using marijuana and stomach acid.

We treated your symptoms, and you improved. 

It is very important that you follow up with your PCP in ___ 
___ this week.
 
Followup Instructions:
___